US08748415B2
Step 3. Preparation of ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate
A solution of ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate (10.1 g, 18.54 mmol) in THF (100 ml) was cooled to −78° C. To the solution was added KHMDS (0.5M in toluene) (74.2 ml, 37.1 mmol). The mixture was stirred for 15 minutes at −78° C. and a solution of N-Phenyl-bis(trifluoromethanesulfonimide) (7.29 g, 20.4 mmol) in THF (20 ml) and toluene (20 ml) was added via cannula. The mixture was stirred for 3.5 h at −78° C. TLC indicated a trace of starting material was still present so an additional 0.7 g of N-phenyl-bis(trifluoromethanesulfonimide) was added to the mixture and stirring continued at −78° C. for 1 h. TLC indicated the reaction was complete. The mixture was diluted with water (75 ml) and extracted with ethyl acetate (3×75 ml). The combined organic layers were dried with MgSO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified flash chromatography using 0-20% toluene in hexanes gradient, then 20% toluene in hexanes, followed by a 10-15% EtOAc in hexanes to afford the title compound as a white foam (9.85 g, 14.55 mmol, 78% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.94 (s, 3H), 1.03 (s, 3H), 1.04 (s, 3H), 1.10-1.86 (m, 18H), 1.12 (s, 3H), 1.14 (s, 3H), 1.73 (s, 3H), 1.92-2.13 (m, 3H), 2.18 (dd, J=17.07, 6.78 Hz, 1H), 2.55 (td, J=11.11, 5.90 Hz, 1H), 4.12 (d, J=11.04 Hz, 1H), 4.55 (dd, J=11.04, 1.25 Hz, 1H), 4.64 (s, 1H), 4.75 (d, J=2.01 Hz, 1H), 5.58 (dd, J=6.65, 1.88 Hz, 1H), 7.43-7.49 (m, 2H), 7.55-7.60 (m, 1H), 8.05-8.09 (m, 2H).

reactant | ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | 18.54 mmol, 10.1 g | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CCC(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)=O)C)[C@@H](CC2)C(=C)C | C37H52O3
reactant | KHMDS | 37.1 mmol, 0.5M, 74.2 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | N-Phenyl-bis(trifluoromethanesulfonimide) | 20.4 mmol, 7.29 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 0.7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 75 ml | O | H2O
product | ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | 14.55 mmol, 9.85 g, 78% yield | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OS(=O)(=O)C(F)(F)F)C)[C@@H](CC2)C(=C)C | C38H51F3O5S
